US07244843B2
Step A. Preparation of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(3-pentyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring degassed solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-bromo-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (66 mg, 0.15 mmol) and potassium carbonate (105 mg, 0.76 mmol) in DMF (1.0 mL) was added 1,1′-bis(diphenylphosphino)ferrocene palladium(II) dichloride dichloromethane complex (12 mg, 0.015 mmol). After 15 min., 0.5 M THF solution of 3-propenylzinc bromide (0.45 mL, 0.9 mmol) was added. The reaction was heated to reflux for 15 min and then cooled to room temp. The reaction was quenched with 1M aq. NaOH and extracted with EtOAc (3×10 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a black oil. The oil was purified by flash chromatography (silica gel, 0–50% EtOAc in hexanes) to give 36 mg of the desired product as a colorless oil. MS (ESI) 427 (M+H).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-bromo-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.15 mmol, 66 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)Br)C(F)(F)F)=O)CC1 | C17H18BrF3N2O3
reactant | potassium carbonate | 0.76 mmol, 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 0.5 M | C1CCOC1 | C4H8O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(3-pentyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 36 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)C(CC)CC)C(F)(F)F)=O)CC1 | C22H29F3N2O3
